US07253286B2
N-[4-(7-Benzyloxy-6-cyanoquinolin-4-yloxy)-2-chloro-phenyl]-N′-methylurea
[4-(7-Benzyloxy-6-cyanoquinolin-4-yloxy)-2-chloro phenyl]carbamic acid phenyl ester (1.17 g) was added to dimethylformamide (6 ml), and then amethylamine-containing 2N tetrahydrofuran solution (0.4 ml) was added and the mixture was stirred for 10 minutes. Water (15 ml) was added, and the precipitated crystals were filtered out and washed with diethyl ether to obtain the title compound (968 mg)

reactant | [4-(7-Benzyloxy-6-cyanoquinolin-4-yloxy)-2-chloro phenyl]carbamic acid phenyl ester | 1.17 g | C1(=CC=CC=C1)OC(NC1=C(C=C(C=C1)OC1=CC=NC2=CC(=C(C=C12)C#N)OCC1=CC=CC=C1)Cl)=O | C30H20ClN3O4
reactant | dimethylformamide | 6 ml | CN(C=O)C | C3H7NO
reactant | tetrahydrofuran | 2N, 0.4 ml | O1CCCC1 | C4H8O
solvent | Water | 15 ml | O | H2O
product | N-[4-(7-Benzyloxy-6-cyanoquinolin-4-yloxy)-2-chloro-phenyl]-N′-methylurea | 968 mg | C(C1=CC=CC=C1)OC1=C(C=C2C(=CC=NC2=C1)OC1=CC(=C(C=C1)NC(=O)NC)Cl)C#N | C25H19ClN4O3
